US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)thiophene-3-sulfonamide was prepared in the same manner as described in Example 2 from thiophene-3-sulfonyl chloride with 5-amino-4-bromo-3-methylisoxazole in 22% yield. Purification by column chromatography using 10% MeOH/CHCl3 as eluent gave a pale brown oil.

reactant | thiophene-3-sulfonyl chloride | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-Bromo-3-methyl-5-isoxazolyl)thiophene-3-sulfonamide | 22% yield | BrC=1C(=NOC1NS(=O)(=O)C1=CSC=C1)C | C8H7BrN2O3S2
